US08455488B2
Synthesis of 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-(pyridin-4-ylmethyl)urea (Compound II-113)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-(pyridin-4-ylmethyl)ureidooxy)acetic acid (Compound VI-10) 93 mg (0.41 mmol) was coupled with (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-N—((S)-1,1-diethoxypropan-2-yl)-propanamide (Compound IV-12) 100 mg (0.27 mmol) to obtain the title compound.

reactant | 2-(3-(pyridin-4-ylmethyl)ureidooxy)acetic acid | 0.41 mmol, 93 mg | N1=CC=C(C=C1)CNC(NOCC(=O)O)=O | C9H11N3O4
reactant | (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-N—((S)-1,1-diethoxypropan-2-yl)-propanamide | 0.27 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)C | C19H28N2O3S
product | 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-(pyridin-4-ylmethyl)urea | S1C2=C(C(=C1)CN(C([C@H](C)NC(CONC(=O)NCC1=CC=NC=C1)=O)=O)[C@H](C(OCC)OCC)C)C=CC=C2 | C28H37N5O6S
